US06713496B2
tert-Butyl (3R)-3-(2-tert-butoxy-2-oxoethoxy)pyrrolidine-1-carboxylate
Sodium hydride (704 mg, 60% in mineral oil, 17.6 mmol) was added to an ice-cooled solution of tert-butyl (3R)-3-hydroxypyrrolidine-1-carboxylate (J. Med. Chem. 1998, 41(25), 4983) (5 g, 26.7 mmol) in tetrahydrofuran (100 ml), and the mixture was allowed to warm to room temperature and stirred for 20 minutes. tert-Butyl bromoacetate (5.2 g, 26.7 mmol) was added and the mixture was heated under reflux for 18 hours, then cooled and concentrated under reduced pressure. The residue was partitioned between ethyl acetate and water and the phases separated. The organic layer was dried (MgSO4) and evaporated under reduced pressure. The crude product was purified by column chromatography on silica gel using an elution gradient of ethyl acetate:pentane (0:100 to 20:80) to afford the title compound, 1.95 g.

reactant | Sodium hydride | 17.6 mmol, 704 mg | [H-].[Na+]
reactant | tert-butyl (3R)-3-hydroxypyrrolidine-1-carboxylate | 26.7 mmol, 5 g | O[C@H]1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | tert-Butyl bromoacetate | 26.7 mmol, 5.2 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | tert-Butyl (3R)-3-(2-tert-butoxy-2-oxoethoxy)pyrrolidine-1-carboxylate | C(C)(C)(C)OC(CO[C@H]1CN(CC1)C(=O)OC(C)(C)C)=O | C15H27NO5
